US07135466B2
Cyano(phenyl)methyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}carbamate
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylaniline (50 mg) was added to toluene (5 ml), and triethylamine (0.5 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (68 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 2-hydroxy-2-phenylacetonitrile (31 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (30 mg, yield 39%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1C)C | C19H20N2O3
reactant | triphosgene | 68 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-hydroxy-2-phenylacetonitrile | 31 mg | OC(C#N)C1=CC=CC=C1 | C8H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Cyano(phenyl)methyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}carbamate | 30 mg, yield 39% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1C)NC(OC(C1=CC=CC=C1)C#N)=O)C | C28H25N3O5
